US07420001B2
To 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester (200 mg, 0.8 mmol) in 4 mL of DMF was added 2-bromopropane (0.5 mL), and K2CO3 (200 mg). The mixture was stirred at room temperature overnight. The mixture was washed with brine and extracted with ethyl acetate. The combined ethyl acetate layers were washed with brine. Removal of the solvent gave 176 mg of 3-methyl-4-isopropoxy-benzofuran-2-carboxylic acid tert-butyl ester as colorless crystals.

reactant | 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 0.8 mmol, 200 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)O | C14H16O4
reactant | 2-bromopropane | 0.5 mL | BrC(C)C | C3H7Br
reactant | K2CO3 | 200 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-methyl-4-isopropoxy-benzofuran-2-carboxylic acid tert-butyl ester | 176 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OC(C)C | C17H22O4
